US08735579B2
6-Chloro-pyrimidine-4-carboxylic acid-methylamide
0.5 ml of a 2 M methylamide solution in tetrahydrofuran and 1 ml 1 N sodium hydroxide solution are added to 177 mg 6-chloro-pyrimidin-4-carboxylic acid chloride in 5 ml dichloromethane under an argon atmosphere and while cooling with a bath of ice/acetone. The reaction mixture is heated overnight with stirring to ambient temperature and then combined with some saturated aqueous sodium hydrogen carbonate solution and extracted with dichloromethane. The combined organic phases are washed with 0.1 N hydrochloric acid and saturated sodium chloride solution, dried on magnesium sulphate and evaporated down.

reactant | methylamide | 2 M | C[NH-]
reactant | 6-chloro-pyrimidin-4-carboxylic acid chloride | 177 mg | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 N, 1 ml | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-Chloro-pyrimidine-4-carboxylic acid-methylamide | CNC(=O)C1=NC=NC(=C1)Cl | C6H6ClN3O
